US04992474
1-[2-[(6-Bromohexyl)oxy]ethyl]-4-ethylbenzene
(2.6 g), T.l.c. [B] Rf 0.25, from 1,6-dibromohexane (9.8 g) and 4-ethylbenzeneethanol (2.0 g).

reactant | 1,6-dibromohexane | 9.8 g | BrCCCCCCBr | C6H12Br2
reactant | 4-ethylbenzeneethanol | 2.0 g | C(C)C1=CC=C(C=C1)CCO | C10H14O
product | 1-[2-[(6-Bromohexyl)oxy]ethyl]-4-ethylbenzene | BrCCCCCCOCCC1=CC=C(C=C1)CC | C16H25BrO
